US07790882B2
N,N-Dibenzyl-2-methyl-5-decyn-4-amine
A 10 ml schlenk tube was charged with copper (I) bromide (3.6 mg, 0.025 mmol), (R,Sax)-[4-(2-diphenylphosphanylnaphthalen-1-yl)-phthalazin-1-yl]-(1-phenylethyl)-amine (15.4 mg, 0.028 mmol) and 4 Å molecular sieves (0.3 g). The schlenk tube was flushed with argon for 5 min and then toluene (2 ml) was added. The resulting suspension was stirred for 1 hr at 23° C. To the reaction mixture was subsequently added 1-hexyne (41 mg, 0.50 mmol), 3-methylbutanal (43 mg, 0.50 mmol) and dibenzylamine (99 mg, 0.50 mmol). The resulting reaction mixture was stirred at 23° C. for 5 days and purified by flash chromatography on silica gel to give 128 mg of the title compound as a colorless oil.

reactant | 1-hexyne | 0.50 mmol, 41 mg | C#CCCCC | C6H10
reactant | 3-methylbutanal | 0.50 mmol, 43 mg | CC(CC=O)C | C5H10O
reactant | dibenzylamine | 0.50 mmol, 99 mg | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
catalyst | copper (I) bromide | 0.025 mmol, 3.6 mg | [Cu]Br
product | N,N-Dibenzyl-2-methyl-5-decyn-4-amine | 128 mg, yield: 74% | C(C1=CC=CC=C1)N(C(CC(C)C)C#CCCCC)CC1=CC=CC=C1 | C25H33N
